US09102688B2
5-Chloro-6-methyl-8-nitroquinoline (Intermediate 39)
In a similar fashion using route 10 general procedure 20, 5-chloro-4-methyl-2-nitroaniline (1.0 g, 5.3 mmol), glycerol (1.52 g, 16.6 mmol), 3-nitrobenzensulfonic acid sodium salt (1.55 g, 6.8 mmol) and H2SO4/H2O (6 ml, 7:5) gave the title compound (350 mg, 30%) which was used in the next step without purification.

reactant | 5-chloro-4-methyl-2-nitroaniline | 5.3 mmol, 1.0 g | ClC=1C(=CC(=C(N)C1)[N+](=O)[O-])C | C7H7ClN2O2
reactant | glycerol | 16.6 mmol, 1.52 g | OCC(O)CO | C3H8O3
reactant | 3-nitrobenzensulfonic acid sodium salt | 6.8 mmol, 1.55 g | [Na+].[N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)[O-]
reactant | H2SO4 H2O | 6 ml | OS(=O)(=O)O.O
product | 5-Chloro-6-methyl-8-nitroquinoline | 350 mg, 30% | ClC1=C2C=CC=NC2=C(C=C1C)[N+](=O)[O-] | C10H7ClN2O2
